US05278158
To a suspension of 0.50 g 2-(7-acetamido-3,4-dihydro-2,2-dimethyl-6-nitro-2H-1,4-benzoxazin-4-yl)pyridine N-oxide in 6 ml ethanol, was added 6 ml of 5N HCl, the mixture was stirred at 100° C. for two hours, the reaction mixture was poured to ice water, and the resulting mixture was neutralized with sodium bicarbonate and extracted with chloroform. The extract was dried over anhydrous magnesium sulfate, the solvents were distilled off from the dried solution, and the residue thus obtained was recrystallized from ethanol, thus giving 359 mg of 2-(7-amino-3,4-dihydro-2,2-dimethyl-6-nitro-2H-1,4-benzoxazin-4-yl)pyridine N-oxide.

reactant | 2-(7-acetamido-3,4-dihydro-2,2-dimethyl-6-nitro-2H-1,4-benzoxazin-4-yl)pyridine N-oxide | 0.50 g | C(C)(=O)NC1=CC2=C(N(CC(O2)(C)C)C2=[N+](C=CC=C2)[O-])C=C1[N+](=O)[O-] | C17H18N4O5
reactant | HCl | 5N, 6 ml | Cl | ClH
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | ethanol | 6 ml | C(C)O | C2H6O
product | 2-(7-amino-3,4-dihydro-2,2-dimethyl-6-nitro-2H-1,4-benzoxazin-4-yl)pyridine N-oxide | 359 mg | NC1=CC2=C(N(CC(O2)(C)C)C2=[N+](C=CC=C2)[O-])C=C1[N+](=O)[O-] | C15H16N4O4
